US07049438B2
4-(2-chloro-5-methoxyanilino)-7-hydroxy-5-tetrahydropyran-4-yloxyquinazoline
Using an analogous procedure to that described in Example 20, 7-benzyloxy-4-(2-chloro-5-methoxyanilino)-5-tetrahydropyran-4-yloxyquinazoline (0.78 g) was reacted with trifluoroacetic acid (5 ml). The reaction mixture was evaporated and the residue was triturated under diethyl ether. The precipitate was isolated and the solid was dissolved in a mixture of methylene chloride and a saturated methanolic ammonia solution. The mixture was evaporated and the residue was purified by column chromatography on silica using a 97:3 mixture of methylene chloride and methanol as eluent. There was thus obtained the title compound (0.47 g); NMR Spectrum: (DMSOd6) 1.8–1.9 (m, 2H), 2.2 (d, 2H), 3.52 (t, 2H), 3.8 (s, 3H), 3.92 (m, 2H), 4.95 (m, 1H), 6.7 (s, 1H), 6.75–6.85 (m, 2H), 7.5 (d, 1H), 8.12 (d, 1H), 8.4 (s, 1H), 9.85 (s, 1H); Mass Spectrum: M+H+ 402 and 404.

reactant | 7-benzyloxy-4-(2-chloro-5-methoxyanilino)-5-tetrahydropyran-4-yloxyquinazoline | 0.78 g | C(C1=CC=CC=C1)OC1=CC(=C2C(=NC=NC2=C1)NC1=C(C=CC(=C1)OC)Cl)OC1CCOCC1 | C27H26ClN3O4
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | N | H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(2-chloro-5-methoxyanilino)-7-hydroxy-5-tetrahydropyran-4-yloxyquinazoline | 0.47 g | ClC1=C(NC2=NC=NC3=CC(=CC(=C23)OC2CCOCC2)O)C=C(C=C1)OC | C20H20ClN3O4
